*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/2.20e+00[uF]/16[V]
* Murata P/N :GRT155C81C225KE13
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155C81C225KE13 Port1 Port2
C01 Port1 N01 1.73e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.79e-10
R03 N02 N03 6.35e-03
C04 N03 N04 6.00e-05
R04 N03 N04 8.57e+01
C05 N04 N05 9.14e-05
R05 N04 N05 5.82e+00
C06 N05 N06 8.03e-05
R06 N05 N06 9.40e-01
C07 N06 N07 7.76e-05
R07 N06 N07 1.47e-01
C08 N07 N08 7.79e-05
R08 N07 N08 2.69e-02
C09 N08 N09 4.69e-05
R09 N08 N09 8.75e-03
L10 N09 N10 1.90e-11
R10 N09 N10 2.12e-01
L11 N10 N11 3.14e-11
R11 N10 N11 6.04e-02
L12 N11 N12 1.38e-10
R12 N11 N12 2.71e-02
C13 N12 N13 6.24e-06
L13 N12 N13 3.27e-11
R13 N12 N13 4.67e-03
C14 N13 N14 2.47e-06
L14 N13 N14 3.93e-11
R14 N13 N14 6.91e-03
C15 N14 Port2 4.51e-11
L15 N14 Port2 8.52e-12
R15 N14 Port2 9.19e-01
.ENDS GRT155C81C225KE13
